US05175162
A mixture of 2.4 g of 2-bromo-4-oxo-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-acetic acid and 1.3 g of 4-chlorophenylhydrazine in 40 ml of ethanol is refluxed under heating for 14 hours. After cooling, the precipitated crystals are collected by filtration, washed with ethanol and then recrystallized from a mixed solvent of chloroform and ethanol to give 1.3 g of 8-bromo-2-(4-chlorophenyl)-4a,5-dihydro-2H-thieno[2',3':2,3]thiopyrano[4,5-c]pyridazin-3(4H)-one as pale brown crystals, melting at 169°-170° C.

reactant | 2-bromo-4-oxo-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-acetic acid | 2.4 g | BrC1=CC2=C(SCC(C2=O)CC(=O)O)S1 | C9H7BrO3S2
reactant | 4-chlorophenylhydrazine | 1.3 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 8-bromo-2-(4-chlorophenyl)-4a,5-dihydro-2H-thieno[2',3':2,3]thiopyrano[4,5-c]pyridazin-3(4H)-one | 1.3 g | BrC1=CC2=C(SCC3C2=NN(C(C3)=O)C3=CC=C(C=C3)Cl)S1 | C15H10BrClN2OS2
